Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
metronidazole / clindamycin
 
Attending: ___.
 
Chief Complaint:
nausea and vomiting, first trimester pregnancy
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient is a ___ yr old multip with persistent nausea and emesis 
despite oral antiemetics
 She has had multiple visits to triage and recently got no 
relief from continued anti- emetics. Reports no fever, vaginl 
bleeding. Known IUP from prior scan.
 
Past Medical History:
Hypermesis in prior pregnancies
 
Social History:
No tobacco, alcohol or drug use
 
Physical Exam:
Admission exam:
PE: Comfortable, NAD
CV: RRR
Pulm: CTAB
Abd: soft, no TTP over epigastrum or elsewhere. No rebound or
guarding. 
Ext: WWP

Discharge exam:
Gen: [x] NAD
Resp: [x] No evidence of respiratory distress
Abd: [x] soft  [x] non-tender 
Ext: [x] no edema [x] non-tender
 
Pertinent Results:
___ 06:40AM BLOOD WBC-8.0 RBC-3.85* Hgb-11.7 Hct-33.6* 
MCV-87 MCH-30.4 MCHC-34.8 RDW-13.3 RDWSD-42.3 Plt ___
___ 01:53PM BLOOD WBC-8.6 RBC-4.22 Hgb-12.5 Hct-37.6 MCV-89 
MCH-29.6 MCHC-33.2 RDW-13.3 RDWSD-43.5 Plt ___
___ 01:44PM BLOOD WBC-7.1 RBC-4.13 Hgb-12.6 Hct-37.1 MCV-90 
MCH-30.5 MCHC-34.0 RDW-13.4 RDWSD-44.0 Plt ___
___ 01:53PM BLOOD Neuts-81.0* Lymphs-14.4* Monos-3.7* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-7.00* AbsLymp-1.24 
AbsMono-0.32 AbsEos-0.01* AbsBaso-0.02
___ 06:40AM BLOOD Glucose-79 UreaN-6 Creat-0.6 Na-141 K-3.7 
Cl-107 HCO3-21* AnGap-13
___ 01:53PM BLOOD Glucose-76 UreaN-6 Creat-0.6 Na-136 K-3.7 
Cl-103 HCO3-22 AnGap-11
___ 01:44PM BLOOD Glucose-80 UreaN-5* Creat-0.6 Na-137 
K-4.3 Cl-102 HCO3-23 AnGap-12
___ 01:53PM BLOOD ALT-10 AST-16 AlkPhos-55 TotBili-0.3
___ 06:40AM BLOOD Calcium-8.8 Phos-2.4* Mg-1.9
___ 01:53PM BLOOD Albumin-4.0
___ 01:44PM BLOOD Calcium-9.4 Phos-2.8 Mg-1.8
___ 06:40AM BLOOD TSH-0.17*
___ 06:40AM BLOOD T4-8.4 T3-107 Free T4-1.2
___ 01:53PM BLOOD ___
 
Brief Hospital Course:
___ was admitted to the antepartum service for 
management of nausea and vomiting of pregnancy at 8 weeks 
gestational age. She received IV Zofran/Pepcid/fluids. Her lab 
values remained wnl, except for a TSH, which was depressed and 
consistent with elevated HCG. After two days of IV medications, 
she was able to tolerate po and on hospital day 3, she was 
tolerating a regular diet and her nausea had significantly 
improved. 

She also met with social work to discuss this pregnancy. She was 
discharged on hospital day 3 in stable condition. 
 
Discharge Medications:
1.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*15 Tablet Refills:*1 
2.  Prochlorperazine 10 mg PO Q8H:PRN Nausea/Vomiting - Second 
Line 
RX *prochlorperazine maleate 5 mg 1 tablet(s) by mouth every 
eight (8) hours Disp #*15 Tablet Refills:*1 
3.  Promethazine 25 mg PR Q6H:PRN nausea  
RX *promethazine [Phenergan] 12.5 mg 1 suppository(s) rectally 
Daily as needed Disp #*5 Suppository Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pregnancy at 8 weeks
nausea/vomited

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted to the hospital for nausea and vomiting of 
pregnancy. Your symptoms improved while you were here and it was 
felt it was safe for you to be discharged home. Please take all 
medications as prescribed. 
 
Followup Instructions:
___